US04434095
p-Nitrophenyl ether of benzyloxycarbonylproline is reacted with arginine to give benzyloxycarbonyl-prolyl-arginine.

reactant | p-Nitrophenyl ether | [N+](=O)([O-])C1=CC=C(C=C1)OC1=CC=C(C=C1)[N+](=O)[O-] | C12H8N2O5
reactant | benzyloxycarbonylproline | C(C1=CC=CC=C1)OC(=O)N1[C@H](C(=O)O)CCC1 | C13H15NO4
reactant | arginine | N[C@@H](CCCNC(N)=N)C(=O)O | C6H14N4O2
product | benzyloxycarbonyl-prolyl-arginine | C(C1=CC=CC=C1)OC(=O)N1[C@H](C(=O)N[C@@H](CCCNC(N)=N)C(=O)O)CCC1 | C19H27N5O5
